US05221665
Ethyl-N-(3-methylpyridinyl)glycinate
3-Aminomethylpyridine (21.6g, 0.2 mol) and equal molar triethylamine (20.2 g) were dissolved in tetrahydrofuran and cooled by means of an ice water bath to 0°-5° C. Ethyl bromoacetate (33.4 g, 0.2 mol) was added dropwise to the solution where by a suspension formed. The mixture was allowed to stir at room temperature over the weekend. The solvent was concentrated under vacuum. The residue was treated with water and extracted into ethyl acetate. The organic extract was washed repeatedly with water and dried over magnesium sulfate. After filtering from the drying agent the solvent was concentrated and the residue was treated with anhydrous ether. The cloudy solution was filtered through a pad of Celite and afterwards cooled to 0° C. with an ice bath. Slow addition of ether which had previously been saturated with anhydrous hydrogen chloride resulted in the product to precipitate as the HCl-salt. The solid product was filtered and washed with ether to give 15.0 g of a hygroscopic material with a melting point of 125°-127° C.

reactant | 3-Aminomethylpyridine | 0.2 mol, 21.6g | NCC=1C=NC=CC1 | C6H8N2
reactant | triethylamine | 20.2 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl bromoacetate | 0.2 mol, 33.4 g | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl-N-(3-methylpyridinyl)glycinate | 15.0 g | C(C)OC(CNC1=NC=CC=C1C)=O | C10H14N2O2
